US06653471B2
A mixture of 5-Bromo-4-oxo-5,6,7,8-tetrahydro-4-H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester(880 mg, 2.27 mmol) and Thioacetamide(426 mg, 4.54 mmol) in MeOH(20 mL) is refluxed for 20 h and concentrated in vacuo. The residue is purified by flash chromatography on silica gel (50% EtOAc/Hex to 10% MeOH/CH2Cl2) to yield 382 mg of 2-Methyl-4,5,6,7-tetrahydro-3-thia-1,7-diaza-cyclopenta[e]azulene-9-carboxylic acid methyl ester as a yellow foam(64%). 1H NMR (CD3OD) 2.18 (quint, 2H), 2.61 (s, 3H), 2.70 (t, 2H) 2.78 (t, 2H), 3.73 (s, 3H), 7.29 (s, 1H)

reactant | 5-Bromo-4-oxo-5,6,7,8-tetrahydro-4-H-cyclohepta[b]pyrrole-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 2.27 mmol, 880 mg | COC(=O)C=1C2=C(N(C1)C(=O)OC(C)(C)C)CCCC(C2=O)Br | C16H20BrNO5
reactant | Thioacetamide | 4.54 mmol, 426 mg | C(C)(=S)N | C2H5NS
solvent | MeOH | 20 mL | CO | CH4O
product | 2-Methyl-4,5,6,7-tetrahydro-3-thia-1,7-diaza-cyclopenta[e]azulene-9-carboxylic acid methyl ester | 382 mg, 64% | COC(=O)C1=CNC=2CCCC3=C(C12)N=C(S3)C | C13H14N2O2S
